US06319920B1
(R,R)-N-{2-[3-(4-methoxyphenylcarbonylamino)phenyl]-1-methylethyl}-N-propyl-(1-phenylethyl)amine (0.98 g) was dissolved in ethanol (100 ml) and added to 10% palladium on carbon (0.1 g). To this mixture was added ammonium formate (1.2 g), and the mixture heated at reflux for 2 hours, cooled to room temperature, and filtered. The filtrate was evaporated in vacuo, and the residue was partitioned between ethyl acetate and dilute sodium hydroxide. The organic layer was dried over sodium sulfate, filtered, and the solvent removed in vacuo to give [(R)-N-{2-[3-(4-methoxyphenylcarbonylamino)phenyl]-1-methylethyl}propylamine.

reactant | (R,R)-N-{2-[3-(4-methoxyphenylcarbonylamino)phenyl]-1-methylethyl}-N-propyl-(1-phenylethyl)amine | 0.98 g | COC1=CC=C(C=C1)C(=O)NC=1C=C(C=CC1)C[C@@H](C)N(CCC)[C@H](C)C1=CC=CC=C1 | C28H34N2O2
reactant | ammonium formate | 1.2 g | C(=O)[O-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | (R)-N-{2-[3-(4-methoxyphenylcarbonylamino)phenyl]-1-methylethyl}propylamine | COC1=CC=C(C=C1)C(=O)NC=1C=C(C=CC1)C[C@@H](C)NCCC | C20H26N2O2
